US07592453B2
1-tert-butyl 4-ethyl (3aR*,4S*,9bR*)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1,4-dicarboxylate
To a solution of ethyl glyoxylate (50% toluene solution, 13.76 g, 67.4 mmol) and aniline (5.6 ml, 61.3 mmol) in toluene (250 ml) was added magnesium sulfate (3.95 g, 32.85 mmol), and the mixture was stirred at 0° C. for 30 min. A solution of tert-butyl 2,3-dihydro-1H-pyrrole-1-carboxylate (10.37 g, 61.3 mmol) in toluene (50 ml) and scandium triflate (1.47 g, 3.0 mmol) were added at 0° C., and the mixture was stirred at room temperature for 16 hrs. Saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried (over anhydrous MgSO4), and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (4:1-2:1, v/v). The title compound (3aR*,4R*,9bR*) (9.83 g, 46%) was obtained as an oil from the first eluted fraction.

reactant | ethyl glyoxylate | 67.4 mmol, 13.76 g | C(C=O)(=O)OCC | C4H6O3
reactant | aniline | 61.3 mmol, 5.6 ml | NC1=CC=CC=C1 | C6H7N
reactant | magnesium sulfate | 32.85 mmol, 3.95 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | tert-butyl 2,3-dihydro-1H-pyrrole-1-carboxylate | 61.3 mmol, 10.37 g | N1(CCC=C1)C(=O)OC(C)(C)C | C9H15NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | scandium triflate | 3.0 mmol, 1.47 g | [O-]S(=O)(=O)C(F)(F)F.[Sc+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
product | 1-tert-butyl 4-ethyl (3aR*,4S*,9bR*)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1,4-dicarboxylate | 9.83 g, 46% | N1(CC[C@@H]2[C@H](NC=3C=CC=CC3[C@@H]21)C(=O)OCC)C(=O)OC(C)(C)C | C19H26N2O4
